US07514435B2
68A. Preparation of tert-butyl 5-bromopyridin-3-ylcarbamate
A solution of 5-bromo nicotinic acid (10.0 g, 49.5 mmol) in 1,4-dioxane (70 mL) was treated with diphenylphosphoryl azide (12.8 mL, 59 mmol) and triethylamine (8 mL, 59 mmol) at ambient temperature. The solution was allowed to stir for 30 minutes. t-Butyl alcohol (23 mL) was added and the reaction was heated to 75° C. overnight. After cooling to ambient temperature, the solvent was removed under reduced pressure and the residue was dissolved in EtOAc (100 mL) and washed with water (100 mL), followed by saturated aqueous NaHCO3 (100 mL) and 1 N HCl (50 mL). The organic layer was dried (Na2SO4), filtered and concentrated. The crude bromide was purified by flash chromatography (SiO2, 0% to 25% MeOH/CH2Cl2) to afford the title compound as a solid (4.0 g, 30%). 1H NMR (400 Mz, CDCl3) δ 9.82 (s, 1H), 8.55 (d, 1H, J=2.27 Hz), 8.28 (d, 1H, J=2.0 Hz), 8.16 (s, 1H), 1.47 (s, 9H). HPLC tR=3.65 min (YMC S5 ODS 4.6×50 mm, 10-90% aqueous methanol containing 0.2% H3PO4, 4 min gradient, monitored at 220 nm). [M+H+]=273.17.

reactant | 5-bromo nicotinic acid | 49.5 mmol, 10.0 g | BrC=1C=NC=C(C(=O)O)C1 | C6H4BrNO2
reactant | diphenylphosphoryl azide | 59 mmol, 12.8 mL | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | 59 mmol, 8 mL | C(C)N(CC)CC | C6H15N
reactant | t-Butyl alcohol | 23 mL | C(C)(C)(C)O | C4H10O
solvent | 1,4-dioxane | 70 mL | O1CCOCC1 | C4H8O2
product | tert-butyl 5-bromopyridin-3-ylcarbamate | 4.0 g, 30% | BrC=1C=C(C=NC1)NC(OC(C)(C)C)=O | C10H13BrN2O2
